### PR TITLE
feat(Category Theory): Cartesian Natural Transformation

### PR DESCRIPTION
**Pull request by sinhp**
This PR defines cartesian natural transformations between functors and proves they are closed under horizontal and vertical composition. Also we prove the following results: 

- `NatTrans.isCartesian_of_discrete` shows that any natural transformation between functors from a
  discrete category is cartesian.

- `NatTrans.isCartesian_of_isIso` shows that any natural isomorphism is cartesian.

- `NatTrans.isIso_of_isCartesian_of_isIso_app_terminal` shows that a cartesian natural
  transformation is an isomorphism if its component at a terminal object is an isomorphism.

- `NatTrans.isCartesian_of_isPullback_isTerminal_from` shows that a natural transformation is
  cartesian if all its naturality squares to the terminal object are pullback squares.

This material is adapted from the polynomial functors project developed during the
Trimester "Prospects of Formal Mathematics" at the Hausdorff Institute (HIM) in Bonn:

https://github.com/sinhp/Poly

Co-authored-by: Wojciech Nawrocki <wjnawrocki+gh@protonmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/NatTransCartesian.lean [hunk 1]
```diff
@@ -0,0 +1,146 @@
...
+module
+
+public import Mathlib.CategoryTheory.Functor.TwoSquare
+public import Mathlib.CategoryTheory.Limits.Shapes.Pullback.CommSq
+
+/-!
+# Cartesian natural transformations
+
+Defines natural transformations between functors is cartesian if all their naturality squares are
+pullback squares.
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/NatTransCartesian.lean]:
```suggestion
A natural transformation between functors is cartesian if all its naturality squares are
pullback squares.
```

File: Mathlib/CategoryTheory/NatTransCartesian.lean [hunk 2]
```diff
@@ -0,0 +1,146 @@
...
+  cartesian if all its naturality squares to the terminal object are pullback squares.
+
+- `NatTrans.IsCartesian.comp` shows that the composition of two cartesian natural transformations is
+
+### References
+
+This material is adapted from the polynomial functors project developed during the
+Trimester "Prospects of Formal Mathematics" at the Hausdorff Institute (HIM) in Bonn:
+
+https://github.com/sinhp/Poly
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/NatTransCartesian.lean:37]: This is not really a reference (but it's ok to mention this here, especially if you want to point to some specific use cases for the definition). It is also good to include actual references to the literature.

File: Mathlib/CategoryTheory/NatTransCartesian.lean [hunk 3]
```diff
@@ -0,0 +1,146 @@
...
+  simp only [Discrete.functor_map_id]
+  exact IsPullback.of_horiz_isIso ⟨by rw [Category.id_comp, Category.comp_id]⟩
+
+theorem isCartesian_of_isIso {F G : J ⥤ C} (α : F ⟶ G) [IsIso α] : IsCartesian α :=
+  fun _ _ f => IsPullback.of_vert_isIso ⟨NatTrans.naturality _ f⟩
+
+theorem isIso_of_isCartesian_of_isIso_app_terminal {F G : J ⥤ C} (α : F ⟶ G) (hα : IsCartesian α)
+    (T : J) (hT : IsTerminal T) [IsIso (α.app T)] : IsIso α :=
+  @NatIso.isIso_of_isIso_app _ _ _ _ _ _ α
+    (fun j ↦ isIso_snd_of_isIso <| hα <| hT.from j)
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/NatTransCartesian.lean]:
```suggestion
  have := fun j ↦ isIso_snd_of_isIso <| hα <| hT.from j 
  NatIso.isIso_of_isIso_app _
```

File: Mathlib/CategoryTheory/NatTransCartesian.lean [hunk 4]
```diff
@@ -0,0 +1,146 @@
...
+
+universe v₁ v₂ v₃ v₄ v₅ v₆ v₇ v₈ u₁ u₂ u₃ u₄ u₅ u₆ u₇ u₈
+
+variable {C₁ : Type u₁} {C₂ : Type u₂} {C₃ : Type u₃} {C₄ : Type u₄}
+  [Category.{v₁} C₁] [Category.{v₂} C₂] [Category.{v₃} C₃] [Category.{v₄} C₄]
+  {T : C₁ ⥤ C₂} {L : C₁ ⥤ C₃} {R : C₂ ⥤ C₄} {B : C₃ ⥤ C₄}
+
+variable {C₅ : Type u₅} {C₆ : Type u₆} {C₇ : Type u₇} {C₈ : Type u₈}
+  [Category.{v₅} C₅] [Category.{v₆} C₆] [Category.{v₇} C₇] [Category.{v₈} C₈]
+  {T' : C₂ ⥤ C₅} {R' : C₅ ⥤ C₆} {B' : C₄ ⥤ C₆} {L'' : C₃ ⥤ C₇} {R'' : C₄ ⥤ C₈} {B'' : C₇ ⥤ C₈}
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/NatTransCartesian.lean]:
```suggestion
variable {C₁ C₂ C₃ C₄ : Type*}
  [Category* C₁] [Category* C₂] [Category* C₃] [Category* C₄]
  {T : C₁ ⥤ C₂} {L : C₁ ⥤ C₃} {R : C₂ ⥤ C₄} {B : C₃ ⥤ C₄}

variable {C₅ C₆ C₇ C₈ : Type*}
  [Category* C₅] [Category* C₆] [Category* C₇] [Category* C₈]
  {T' : C₂ ⥤ C₅} {R' : C₅ ⥤ C₆} {B' : C₄ ⥤ C₆} {L'' : C₃ ⥤ C₇} {R'' : C₄ ⥤ C₈} {B'' : C₇ ⥤ C₈}
```

File: Mathlib/CategoryTheory/NatTransCartesian.lean (hunk 2 above)
Comment (sinhp) [reply Mathlib/CategoryTheory/NatTransCartesian.lean:37]: @dagurtomas 
So, I don't know the first paper where the notion of cartesian natural transformation appears. But we can cite the nlab entry: 
https://ncatlab.org/nlab/show/cartesian+natural+transformation

Scrolling down the nlab page, I came across the other terminology for cartesian natural transformations which was new to me, namely, "equifibered transformations", and it turns out we already have that in mathlib! 

https://github.com/leanprover-community/mathlib4/blob/8fc0483a875e84b83c6cdb6f5c124bcbb3530370/Mathlib/CategoryTheory/Limits/VanKampen.lean#L54

Sorry for not having noticed this earlier :(

However, this PR proves more stuff that is not in `NatTrans.Equifibred`:

- `NatTrans.isIso_of_isCartesian_of_isIso_app_terminal`
- `IsCartesian.hcomp`
-  `isCartesian_of_isPullback_isTerminal_from`
-  `IsCartesian.hComp` 
-  `IsCartesian.vComp` 

And,  I think it might be better to have a separate file for cartesian natural transformations (the name cartesian natural transformation is more prominent in the literature), and van Kampen is not the only application of cartesian natural transformations. 
I wonder if you think the same?

 So, either we transport the stuff `NatTrans.Equifibred` to this file or I transport the new stuff of this file to `Limits. VanKampen.lean`. What is the best way to go forward?

File: Mathlib/CategoryTheory/NatTransCartesian.lean [hunk 5]
```diff
@@ -0,0 +1,144 @@
...
+
+variable {J : Type v'} [Category.{u'} J] {C : Type u} [Category.{v} C]
+variable {K : Type*} [Category K] {D : Type*} [Category D]
+
+namespace NatTrans
+
+open Functor
+
+/-- A natural transformation is cartesian if all its naturality squares are pullbacks. -/
+def IsCartesian {F G : J ⥤ C} (α : F ⟶ G) : Prop :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/NatTransCartesian.lean:57]: This should probably be made a typeclass as they are many lemmas below which could be instances.
